US09255100B2
1-[(6-Chloro-3-iodoimidazo[1,2-b]pyridazin-8-yl)amino]-2-methylpropan-2-ol
To a solution of 1.20 g (3.35 mmol) 8-bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine which was prepared according to intermediate example 1c in 24 mL N,N-dimethylformamide were added 895 mg 1-amino-2-methylpropan-2-ol and the mixture was stirred at 40° C. overnight. Water was added and the mixture was extracted with dichloromethane and methanol. The organic phase was washed with water and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 798 mg (65%) of the title compound.

reactant | 8-bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine | 3.35 mmol, 1.20 g | BrC=1C=2N(N=C(C1)Cl)C(=CN2)I | C6H2BrClIN3
reactant | 1-amino-2-methylpropan-2-ol | 895 mg | NCC(C)(O)C | C4H11NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 24 mL | CN(C=O)C | C3H7NO
product | 1-[(6-Chloro-3-iodoimidazo[1,2-b]pyridazin-8-yl)amino]-2-methylpropan-2-ol | 798 mg, 65% | ClC=1C=C(C=2N(N1)C(=CN2)I)NCC(C)(O)C | C10H12ClIN4O
